Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history of HTN, HLD,
PVD, CKD, dilated CM presenting with cough.

The patient reports that he developed a nonproductive cough 4
days prior to admission. He denies any shortness of breath. He
denies chest pain. No fevers but reports night sweats and
malaise. He reports decreased oral intake. The patient initially
presented to ___ Urgent care, where he was hypoxic to 93% on
room air. He had a CXR that showed bronchial wall thickening and
EKG without acute ischemic changes. He was referred to the ___
ED for further care.

In the ED, vitals: 98.8 92 123/67 20 97% 2L NC 
Exam notable for: Pulm: Unlabored breathing rhonchi decreased
breath sounds of the bilateral lower lobes
Labs notable for: WBC 12.9, Hb 11.8, BUN/Cr 44/2.6; trop 0.02,
BNPO 5589, lactate 1.9; flu negative
Patient given: ceftriaxone 1 gm, azithromycin 500 mg IV; ASA 324
mg, 1L LR

On arrival to the floor, the patient denies any shortness of
breath but reports ongoing cough. Reports difficulty sleeping 
due
to cough. Denies any vision changes, eye itching or pain, but
states that he noticed a discharge from his left eye that began
today.

ROS: Pertinent positives and negatives as noted in the HPI. All
other systems were reviewed and are negative. 

 
Past Medical History:
Dilated cardiomyopathy (EF 50%)
Hypertension
PAD (right SFA PTCA/stent ___
Hyperlipidemia
Chronic kidney disease (GFR 44) 
Basal cell skin cancer
Back pain
Paget's disease

 
Social History:
___
Family History:
Mother died of rectal cancer in her ___. No other family history 
of malignancy of CV disease.

 
Physical Exam:
ADMISSION EXAM: 
===============
VITALS: 99.0 168/70 97 20 94 2LNC 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, copious purulent discharge from eyes, L>>R
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs with rhonchi, intermittent dry cough during exam. 
Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no peripheral edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE EXAM: 
===============
24 HR Data (last updated ___ @ 452)
    Temp: 98.1 (Tm 98.4), BP: 139/54 (114-176/45-75), HR: 62
(52-67), RR: 18 (___), O2 sat: 95% (94-98), O2 delivery: RA,
Wt: 242.06 lb/109.8 kg  
Fluid Balance (last updated ___ @ 448) 
  Last 8 hours  Total cumulative -750ml
    IN: Total 0ml
    OUT:  Total 750ml, Urine Amt 750ml
  Last 24 hours  Total cumulative -475ml
    IN: Total 1000ml, PO Amt 770ml, IV Amt Infused 230ml
    OUT:  Total 1475ml, Urine Amt 1475ml  

GENERAL: Well developed, well nourished man in NAD. Hard of
hearing. Oriented x3. Hard of hearing; right ear better than 
left
per pt. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP 7-8cm
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.  
LUNGS: CTAB, no wheezes/rales/rhonchi. 
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES:  WWP, no ___ edema
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 07:47PM BLOOD WBC-12.9* RBC-5.31 Hgb-11.8* Hct-38.2* 
MCV-72* MCH-22.2* MCHC-30.9* RDW-16.6* RDWSD-42.4 Plt ___
___ 07:47PM BLOOD Glucose-138* UreaN-44* Creat-2.6* Na-138 
K-5.1 Cl-104 HCO3-15* AnGap-19*
___ 07:47PM BLOOD ___ PTT-26.4 ___
___ 07:47PM BLOOD proBNP-5589*
___ 07:47PM BLOOD Calcium-8.6 Phos-3.2 Mg-1.8

INTERVAL LABS: 
==============
Tast 19% Ferritin 583 UNa 26
Tpn 0.02-->0.01 
BNP 5589 (no priors)

DISCHARGE LABS: 
===============
___ 07:00AM BLOOD WBC-14.2* RBC-4.67 Hgb-10.5* Hct-33.1* 
MCV-71* MCH-22.5* MCHC-31.7* RDW-15.9* RDWSD-39.8 Plt ___
___ 07:00AM BLOOD ___ PTT-26.1 ___
___ 07:00AM BLOOD Glucose-101* UreaN-60* Creat-1.9* Na-145 
K-4.6 Cl-111* HCO3-16* AnGap-18
___ 07:00AM BLOOD ALT-18 AST-19 LD(LDH)-238 AlkPhos-197* 
TotBili-0.3
___ 07:00AM BLOOD Albumin-2.8* Calcium-7.9* Phos-3.5 Mg-2.0

MICROBIOLOGY: 
=============
___ 5:00 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 11:18 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 12:47 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
__________________________________________________________
___ 8:17 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 7:47 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

STUDIES: 
========
CXR: (initial)
FINDINGS:  
The heart is mildly enlarged.  The pulmonary vasculature is 
normal. There is bronchial wall thickening.  No pneumothorax, 
effusion, or focal consolidation. Mild multilevel degenerative 
changes of the thoracic spine. 
IMPRESSION:  
Mild bronchial wall thickening which can be seen in the setting 
of small 
airway disease 

CXR: (interval) ___
Comparison to ___.  The symmetrical parenchymal 
opacities at the lung bases have minimally increased in extent 
and severity.  This change likely reflect increasing hydrostatic 
pulmonary edema.  A retrocardiac atelectasis is stable.  No 
pneumothorax.  No pneumonia.  Persistent mild cardiomegaly 

Renal US (___)
IMPRESSION: 
1. No hydronephrosis. 
2. Feature suggesting chronic parenchymal nephropathy 

TTE (___)
The left atrial volume index is mildly increased. The right
atrium is mildly enlarged. There is no evidence for
an atrial septal defect by 2D/color Doppler. The estimated right
atrial pressure is ___ mmHg. There is mild
symmetric left ventricular hypertrophy with a normal cavity 
size.
There is moderate global left ventricular
hypokinesis. There is beat-to-beat variability in the left
ventricular contractility due to the irregular rhythm.
Quantitative biplane left ventricular ejection fraction is 30 %
(normal 54-73%). Left ventricular
cardiac index is low normal (2.0-2.5 L/min/m2). There is no
resting left ventricular outflow tract gradient.
Normal right ventricular cavity size with mild global free wall
hypokinesis. The aortic sinus diameter is normal
for gender with normal ascending aorta diameter for gender. The
aortic arch diameter is normal with a normal
descending aorta diameter. The aortic valve leaflets (3) are
mildly thickened. There is no aortic valve stenosis.
There is no aortic regurgitation. The mitral valve leaflets are
mildly thickened with no mitral valve prolapse.
There is mild [1+] mitral regurgitation. The pulmonic valve
leaflets are normal. The tricuspid valve leaflets are
mildly thickened. There is moderate [2+] tricuspid 
regurgitation.
There is moderate pulmonary artery systolic
hypertension. There is a trivial pericardial effusion.

IMPRESSION: Frequent ectopy. Mild symmetric left ventricular
hypertrophy with normal cavity size
and moderate global hypokinesis. Mild right ventricular free 
wall
hypokinesis. Mild mitral
regurgitation. Moderate tricuspid regurgitation. Moderate
pulmonary hypertension.
Compared with the prior TTE (images reviewed) of ___,
frequent ectopy is noted; biventricular
systolic funciton is less vigorous and the degree of valvular
regurgitation and estimated PASP is higher

 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
====================
#HFmEF (prev EF 55% in ___ -> visualized estimated EF 45%, 
reported 30%) 
Discharge weight: 242lb (110 kg)
Discharge Cr: 1.9
Discharge regimen: 
-PRELOAD: None
-AFTERLOAD: STOPPED home nifedipine given reduced EF, STARTED 
carvedilol 6.25mg BID
-NHBK: Carvedilol 6.25mg BID

[ ] Home enalapril 10mg daily and spironolactone 100mg HELD on 
discharge given ___. Please restart enalapril once ___ has 
resolved. If kidney function and BPs stable after restarting 
enalapril, would then restart spironolactone at potentially a 
lower dose. 
[ ] Please follow up weights, BP, CMP at follow up appointment 
and adjust medications as appropriate. 
[ ] Consider outpatient ischemic work-up if with complaints of 
angina and if within goals of care

___ on CKD 
[ ] Cr on discharge 1.9 (prior baseline ~1.3-1.7). Set up with 
outpatient nephrology follow-up. 
[ ] Started on sodium bicarbonate 650mg TID. Please check CMP at 
next follow up and uptitrate or discontinue sodium bicarbonate 
as appropriate. 
[ ] Please ensure follow up with Dr. ___ in ___ weeks from 
discharge is scheduled. 

#Bacterial conjunctivitis
[ ] To complete a 7 day course of erythromycin eye gtts from 
___. Please ensure completion of this course and 
resolution of symptoms. Consider additional course of treatment 
if with continued symptoms. 

#CAD/PAD
[ ] Patient taking full dose aspirin 325mg daily for unclear 
indications. Dose was reduced to ASA 81mg daily. If with clear 
indication for full dose aspirin please restart this. 

BRIEF SUMMARY: 
==============
Mr. ___ is a ___ y.o. gentleman w/ a h/o mild dilated 
cardiomyopathy (prior 55% in ___ --> now EF 30% ___, 
HTN, HLD, Paget's disease, benign ventricular ectopy, PAD s/p 
stenting of R SFA ___ w/ re-stenting of mid and distal R SFA 
___, CKD, and obesity who presented w/ several day h/o cough 
and dyspnea, now being transferred to the cardiology service for 
further management of newly reduced EF.

CORONARIES: Unknown, ETT ___ with no ischemic changes
PUMP: EF 30% 2+ TR 
RHYTHM: Sinus with freq PVCs

=============== 
ACTIVE ISSUES: 
=============== 
# Acute on chronic mixed systolic/diastolic HF (prev EF 55% -> 
now visualized EF estimated ~45%, reported 30%) 
Mr. ___ initially presented with ___ days SOB and cough and 
was treated with CTX/Azithromycin for ? CAP given leukocytosis 
and evidence of bronchial thickening on CXR though no obvious 
consolidations. TTE in evaluation of dyspnea showed newly 
reduced EF of 30% from prior EF of 55% in ___, w/ 2+ TR and 
PASP, frequent PVCs with new RV hypokinesis and possible 
inferior/posterior hypokinesis concerning for prior ischemia. 
However, on review of his TTE on rounds, his systolic function 
appears to be better than reported EF of 30%, and is estimated 
to be closer to 45%. The calculated EF may seem abnormal in the 
setting of frequent PVCs. He likely has mixed 
ischemic/nonischemic cardiomyopathy with contributions from 
underlying CAD given his hx of PAD (however per history does not 
seem to have had a recent missed MI), ongoing HTN, as well as 
ongoing benign ventricular ectopy. Ischemic workup was deferred 
as patient had no symptoms of angina. TSH wnl, iron studies w/o 
evidence of overload. After receiving 1L NS on ___ for presumed 
pre-renal ___, patient had evidence of volume overload on CXR 
and so was diuresed actively with Lasix 20mg + 40mg on ___. He 
appeared relatively euvolemic after this and was trialed on PO 
Lasix 40mg on ___ with good effect. He did not require any 
further diuresis. His home nifedipine was discontinued given his 
newly reduced EF and carvedilol 6.25mg BID was started for both 
afterload and NHBK. His home enalapril and spironolactone were 
held on discharge given his ___ and should be restarted with 
resolution of his ___. His discharge weight was 242lb (110 kg), 
discharge Cr 1.9. Ischemic workup should be considered if within 
goals of care if patient has episodes of angina. 

# ___ on CKD
Baseline Cr 1.3-1.7 (last Cr ___, presented with Cr 2.6, 
uptrended to 2.8 with fluid administration. CXR w/ e/o possible 
volume overload following 1L NS on ___. PVR not elevated. Renal 
US ___ with no hydronephrosis, concerning for obstructive 
uropathy. He was diuresed with good effect with Cr 2.5->2.0. 
Home enalapril and spironolactone were HELD throughout admission 
and on discharge in setting of his ___. He was seen by renal who 
recommended starting sodium bicarbonate 650mg TID for metabolic 
acidosis thought ___ renal dysfunction. His Cr on discharge was 
1.9. He should follow up with Dr. ___ in ___ weeks as an 
outpatient. 

#Cough
#Community acquired PNA 
#Acute hypoxic respiratory failure
Patient presented with cough and dyspnea as above. Initial CXR 
without focal consolidation but repeat following IVFs with b/l 
opacities with c/f infection +/- volume overload and worsening 
WBC. He completed a 5 day course of CTX/azithromycin from 
___ and was weaned to room air with improvement in his 
symptoms of cough. 

# Bacterial conjunctivitis:
Patient presented with copious purulent discharge in bilateral 
eyes, left>right on presentation that rapidly reappears after 
wiping eyes consistent with bacterial conjunctivitis. He was 
treated with erythromycin eye gtts x7d (___). 

#Anemia: 
Hgb 10.5, low MCV which is chronic. Fe studies most c/w anemia 
of chronic disease. 

================ 
CHRONIC ISSUES: 
================ 
CHRONIC/STABLE PROBLEMS:
# HTN
- STOPPED nifedipine given newly reduced EF, carvedilol started 
as above, home enalapril and spironolactone held during 
hospitalization and on discharge given ongoing ___. His home 
enalapril should be restarted once his ___ resolves, with 
consideration of restarting home spironolactone is his kidney 
function remains stable and his BPs are able to tolerate it 

# HLD:
- Increased home atorvastatin to 40 mg daily given known PAD and 
likely CAD. 

# CAD/PVD:
- Reduced full dose ASA to 81mg daily as there was no clear 
indication for full dose aspirin 

# BPH:
- Continued tamsulosin, finasteride

# Glaucoma:
- Continued eye gtts

# Insomnia:
- Continued mirtazapine
- Given ramelteon as needed

# CODE STATUS: Full presumed 
# CONTACT ___ 
Relationship: Daughter 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
4. Enalapril Maleate 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Spironolactone 100 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
10. Mirtazapine 7.5 mg PO QHS 
11. Finasteride 5 mg PO DAILY 
12. NIFEdipine (Extended Release) 60 mg PO QPM 
13. NIFEdipine (Extended Release) 90 mg PO QAM 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN Shortness of breath 
RX *albuterol sulfate 90 mcg 1 puff every four (4) hours Disp 
#*1 Inhaler Refills:*0 
2.  CARVedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QID Duration: 
4 Days 
RX *erythromycin 5 mg/gram (0.5 %) 1 drop both eyes four times a 
day Refills:*0 
4.  Sodium Bicarbonate 650 mg PO TID 
RX *sodium bicarbonate 650 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
7.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID  
8.  Finasteride 5 mg PO DAILY  
9.  Fluticasone Propionate NASAL 1 SPRY NU BID  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
11.  melatonin 3 mg oral QHS  
12.  Mirtazapine 7.5 mg PO QHS  
13.  Polyethylene Glycol 17 g PO DAILY  
14.  Tamsulosin 0.4 mg PO QHS  
15.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  
16.  TraZODone 25 mg PO Q6H:PRN sleep/agitation  
17. HELD- Enalapril Maleate 10 mg PO DAILY  This medication was 
held. Do not restart Enalapril Maleate until PCP follow up 
testing
18. HELD- Spironolactone 100 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until PCP ___ up testing

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS: 
==================
Acute on chronic mixed systolic/diastolic heart failure 
Acute kidney injury on chronic kidney disease 

SECONDARY DIAGNOSIS: 
====================
Community acquired pneumonia 
Bacterial conjunctivitis 
Peripheral arterial disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to take care of you. Please see below for more 
information about your hospitalization. 

WHY WAS I ADMITTED TO THE HOSPITAL?
==================================
You were having cough and trouble breathing

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
-You were given antibiotics to treat a possible pneumonia or 
bronchitis. 
-You were started on antibiotic eye drops to treat an eye 
infection 
-You were given medications to help you pee off excess fluid in 
your body. 

WHAT SHOULD I DO WHEN I GO HOME?
================================
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your cardiologist Dr. 
___ at ___ if your weight goes up more than 3 
lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 242lb (110 kg). You should use this as 
your baseline after you leave the hospital.  
 
Followup Instructions:
___